US07592363B2
2-BENZYL-3-(3-{[4-(1H-TETRAZOL-5-YL)BENZYL]OXY}PHENYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
4-({3-[2-Benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}methyl)benzonitrile (37 mg, 1 eq) was treated with trimethylsilyl azide (21 μL, 2 eq) and di-n-butyltin oxide (5 mg, 0.3 eq) in toluene (2.5 mL) at 100° C. until full conversion. After cooling, most of the solvent was removed in vacuo and the residue was taken in methanol. Purification by flash chromatography, eluent 10% methanol in dichloromethane, afforded the title compound in 87% yleld.

reactant | 4-({3-[2-Benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}methyl)benzonitrile | 37 mg, 1 eq | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(OCC2=CC=C(C#N)C=C2)C=CC1)C(F)(F)F | C29H20F3N3O
reactant | trimethylsilyl azide | 21 μL, 2 eq | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 5 mg, 0.3 eq | C(CCC)[Sn](CCCC)=O
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-BENZYL-3-(3-{[4-(1H-TETRAZOL-5-YL)BENZYL]OXY}PHENYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC(=CC=C1)OCC1=CC=C(C=C1)C1=NN=NN1)C(F)(F)F | C29H21F3N6O
